US04314936
These compounds were prepared from the corresponding compounds I-III by removal of protecting groups with HBr in acetic acid. The benzyloxycarbonyl and t-butyloxycarbonyl groups were simultaneously removed by treatment with 30% Hbr in acetic acid containing anisol (10%) for 15 minutes at room temperature. Yields were about 90%. The molar ratios of the constituent amino acid residues and electrophoretic migrations relative to lysine were for compounds IV: Ala/Lys=1.05 (calc. 1.00), RLys =0.55, for compound V: Phe/Lys=1.06 (calc. 1.00), RLys =0.46, for compound VI: Ala/Lys=1.98 (calc. 2.00); RLys =0.51. Incubation of each of the compounds IV, V and VI with leucine aminopeptidase (E.C. 3.4.11.1) produced quantitatively ε(2-aminobenzoyl)-L-lysisne, (RLys =0.26) and the other expected product as judged by high voltage paper electrophoresis using authentic markers.

reactant | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Ala Lys | N[C@@H](C)C(=O)O.N[C@@H](CCCCN)C(=O)O
reactant | Phe Lys | N[C@@H](CC1=CC=CC=C1)C(=O)O.N[C@@H](CCCCN)C(=O)O
product | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
